* D:\INGEÑERIA\Circuitos Electronicos II\simulaciones\Draft2.asc
V1 0 N002 12
V2 N005 N003 0.7
V3 N006 0 -12
R1 N005 N006 3300
R2 N005 0 10k
R3 N003 N002 100k
V4 N001 0 12
R4 N004 N007 3300
R5 N004 0 10k
R6 N004 0 1k
R7 N004 N001 100k
V5 0 N007 12
.op
.backanno
.end
